US03962132
30 g of silicic acid gel are reacted with 41 g sodium aluminate (NaAlO2) in a dilute aqueous solution (or suspension) in a round bottom flask with mechanical paddle agitator. The volume of water for dilution is chosen such that the pH of the mixture is 13.5 measured electrometrically. The sodiumaluminosilicate precipitated during the reaction is subjected to crystallization at 100°C for 92 hours. A crystalline zeolite A of the following specification is obtained:

reactant | silicic acid | 30 g | [Si](O)(O)(O)O | H4O4Si
reactant | sodium aluminate | 41 g | O=[Al-]=O.[Na+]
solvent | water | O | H2O
product | zeolite A | O.[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Na+].[Na+].[Al+3].[Al+3].[Si+4] | InChI=1S/2Al.2Na.H2O.6O.Si/h;;;;1H2;;;;;;;/q2*+3;2*+1;;6*-2;+4
